US07935688B2
(1) Synthesis of 4-(t-butyl-dimethyl-silanyloxy)-3-methoxy-benzoic Acid Methyl Ester
Imidazole (3.47 g, 51.0 mmol) and t-butyldimethylsilyl chloride (3.84 g, 25.5 mmol) were added to a solution of ethyl vanillate (5.0 g, 25.5 mmol) in N,N-dimethylformamide (50 mL) at room temperature, and the mixture was stirred at room temperature for three hours. The reaction solution was extracted with ethyl acetate. The organic layer was washed with a saturated aqueous sodium bicarbonate solution and water, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The resulting residue was purified by silica gel chromatography (hexane only to hexane:ethyl acetate=10:1) to give the title compound (7.90 g, 100%).

reactant | Imidazole | 51.0 mmol, 3.47 g | N1C=NC=C1 | C3H4N2
reactant | t-butyldimethylsilyl chloride | 25.5 mmol, 3.84 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | ethyl vanillate | 25.5 mmol, 5.0 g | C(C1=CC(OC)=C(O)C=C1)(=O)OCC | C10H12O4
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | 4-(t-butyl-dimethyl-silanyloxy)-3-methoxy-benzoic Acid Methyl Ester | 7.90 g, 100% | COC(C1=CC(=C(C=C1)O[Si](C)(C)C(C)(C)C)OC)=O | C15H24O4Si
